US05939066
c) 2,3-Dihydroimidazo[2,1-b]thiazole-6carboxaldehyde
2,3-Dihydro-6-hydroxymethylimidazo[2,1-b]thiazole (1.47 g, 9.4 mmol) was dissolved in acetonitrile (30 ml) by addition of water (minimum volume). Manganese dioxide (4.41 g, 3 wt. equivalents) was added and the mixture stirred at ambient temperatures for 1.5 h. The mixture was filtered through Keiselguhr, the filter pad washed with water and the combined filtrate and washings evaporated to dryness under reduced pressure. The residue was triturated under diethyl ether, the solid collected by filtration and dried in air (1.33 g, 92%); nmax (CH2Cl2) 1685, 1528, 1272, 1260 and 1152 cm-1 ; dH (90 MHz; CD3OD) 3.84-4.10 (2H, m), 4.20-4.50 (2H, m), 7.97 (1H, s), 9.52 (1H, s).

reactant | 2,3-Dihydro-6-hydroxymethylimidazo[2,1-b]thiazole | 9.4 mmol, 1.47 g | OCC=1N=C2SCCN2C1 | C6H8N2OS
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | Manganese dioxide | 4.41 g | [O-2].[O-2].[Mn+4]
product | 2,3-Dihydroimidazo[2,1-b]thiazole-6carboxaldehyde | S1C=2N(CC1)C=C(N2)C=O | C6H6N2OS
